US07488755B2
(b) 1,1-Diphenyl-4-bromobutane
1,1-diphenyl-4-bromobutene (10.0 g) is dissolved in absolute ethanol (100 ml) and palladium on carbon (400 mg) is added. The reaction mixture is placed under hydrogen atmosphere (P=3.3 bar) for 6 hours. The mixture is filtered on kelite, the filtrate is concentrated to obtain the desired product as an orange oil (9.24 g).

reactant | 1,1-diphenyl-4-bromobutene | 10.0 g | C1(=CC=CC=C1)C(=CCCBr)C1=CC=CC=C1 | C16H15Br
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
product | 1,1-Diphenyl-4-bromobutane | 9.24 g | C1(=CC=CC=C1)C(CCCBr)C1=CC=CC=C1 | C16H17Br
